US05086055
5-[2-[4-(2-Fluorophenyl)Piperazinyl]Ethyl]-2-Oxazolidinone
Following the procedure of Example 35, the title compound was prepared from 5-(2-chloroethyl)-2-oxazolidinone and 1-(2-fluorophenyl)piperazine, mp 121°-124° C.

reactant | 5-(2-chloroethyl)-2-oxazolidinone | ClCCC1CNC(O1)=O | C5H8ClNO2
reactant | 1-(2-fluorophenyl)piperazine | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
product | 5-[2-[4-(2-Fluorophenyl)Piperazinyl]Ethyl]-2-Oxazolidinone | FC1=C(C=CC=C1)N1CCN(CC1)CCC1CNC(O1)=O | C15H20FN3O2
